Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain- Transferred for catheterization
 
Major Surgical or Invasive Procedure:
___ Cardiac catheterization

 
History of Present Illness:
This is a ___ male with a past medical history
significant for HT, HLD, pre-DM, and ?Minimal change disease
(nephrotic syndrome) who presented to the ___ emergency
department for chest pain. At ___, the patient described an
aching pressure that had been began at 11AM on ___ and had been
present for 5- 6 hours prior to presentation to the ED. 

In the ED at ___ his EKG was notable for ST elevations
laterally. Troponins were negative. CBC, chemistry panel, and
coags were all within normal limits. CXR showed no PNA. The
patient was given aspirin, ticagrelor, and started on a heparin
gtt. He was subsequently transferred directly to the ___ cath
lab. Here at ___ he underwent a cardiac cath which showed mild
CAD and otherwise clean coronaries. He was subsequently admitted
to the cardiology floor. 

Upon arrival to the medicine floor, the patient was resting
comfortably, in no acute distress and had no specific 
complaints.
He was chest pain free and denied shortness of breath,
palpitations, fevers, chills, abdominal pain, or nausea. 

REVIEW OF SYSTEMS: Per HPI, otherwise, 10-point review of 
systems
was within normal limits.

 
Past Medical History:
- HTN
- HLD
- Minimal change disease (nephrotic syndrome) 
- ?Pre-DM (A1C 6.2) 
 
Social History:
___
Family History:
- Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Reviewed in ___ 

GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM:
=======================
VITALS:  
T 98.4 BP  115 / 68 HR  89 RR 17 O2 Sat 94 Ra 

GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. Poor 
dentition.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. Chest pain not reproducible to palpation.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Soft, obese, Normal bowels sounds, non distended, 
non-tender to deep
palpation.
EXTREMITIES: No edema. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. Evidence of hyperpigmentation in 
both lower extremities.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously.
 
Pertinent Results:
ADMISSION LABS:
===============

___ 07:00AM   WBC-10.7* RBC-4.32* HGB-12.8* HCT-39.9* 
MCV-92 MCH-29.6 MCHC-32.1 RDW-13.0 RDWSD-44.2
___ 07:00AM   NEUTS-73.2* LYMPHS-17.5* MONOS-7.0 EOS-1.5 
BASOS-0.4 IM ___ AbsNeut-7.84* AbsLymp-1.87 AbsMono-0.75 
AbsEos-0.16 AbsBaso-0.04
___ 07:00AM   PLT COUNT-190
___ 07:00AM   ___ PTT-86.7* ___
___ 07:00AM   GLUCOSE-118* UREA N-15 CREAT-0.8 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-27 ANION GAP-10
___ 07:00AM   ALT(SGPT)-7 AST(SGOT)-10 LD(LDH)-136 ALK 
PHOS-65 TOT BILI-0.5
___ 07:00AM   CK-MB-<1 cTropnT-<0.01
___ 07:00AM   ALBUMIN-3.8 CALCIUM-8.9 PHOSPHATE-3.7 
MAGNESIUM-1.9 

PERTINENT LABS
================
___ 07:00AM   TRIGLYCER-77 HDL CHOL-49 CHOL/HDL-2.9 
LDL(CALC)-80 CHOLEST-144
___ 08:13AM BLOOD %HbA1c-6.2* eAG-131*

Cardiac catheterization report:
===============================
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the
Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is
moderate tortuosity beginning in the proximal segment. There is 
a 30% stenosis in the proximal
segment.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. There is moderate
tortuosity beginning in the proximal segment.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is
moderate tortuosity beginning in the proximal segment. There is 
a 30% stenosis in the proximal segment.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.

Complications: There were no clinically significant 
complications.
Findings
• Elevated left heart filling pressure.
• Mild coronary coronary artery disease.

Recommendations
• Maximize medical therapy
 
Brief Hospital Course:
Mr. ___ is a ___ male with a past medical history 
significant for HT, HLD, pre-DM, and ?Minimal change disease 
(nephrotic syndrome) who presented to the ___ emergency 
department for chest pain, found to have an EKG concerning for 
ST elevation MI. Received aspirin, heparin bolus and Brilinta 
and was transferred to ___. Here, he underwent cardiac 
cath which showed clear coronaries. 

ACUTE/ACTIVE ISSUES:
====================
# Chest Pain - Likely GI in origin (GERD)
# Lateral ST Elevations- R/o MI, could be Prinzmetal angina
# Mild Coronary Artery Disease (Based on Cardiac Cath on ___ 

Patient presented to ___ w/chest pain, found to have ST 
elevations in lateral leads and subsequently underwent cardiac 
cath here at ___ showing clear coronaries (mild CAD). 
After this catheterization, patient had recurrence of chest pain 
with stable EKG and flat cardiac enzymes. His symptoms improved 
with Maalox and is likely GI in origin. He is started on a week 
of Zantac to see if his symptoms resolve, and he can take Maalox 
on top of this for pain. After the week of Zantac, if his 
symptoms recur, consider re-initiation of H2 blocker or consider 
more longterm PPI therapy. We also encouraged weight loss to 
reduce risk of reflux. For cardioprotective benefit, patient 
should take a baby aspirin 81mg daily as well as a 
high-intensity statin, atorvastatin 40mg, in lieu of his 
simvastatin. Recommend that his PCP refer him to cardiology for 
outpatient follow-up. 

# Elevated Left Heart Filling Pressures 
On patient's cardiac cath there he was noted to have elevated 
left heart filling pressures. Patient is on room air, breathing 
comfortably, has clear lungs, and no signs of volume overload. 
No inpatient TTE was indicated given low concern for heart 
failure; he could get an outpatient TTE.
Discharge weight: 284 lbs.

CHRONIC/STABLE ISSUES:
======================
# HTN: Continued home losartan

# HLD: Stopped patient's home simvastatin and started 
Atorvastatin 40mg PO QHS as noted above. Discharge 
hyperlipidemia: ___ 77, HDL 49, LDL 80.

# Minimal change disease (nephrotic syndrome): Currently with 
normal renal function. Of note, did receive contrast during 
cath, so will monitor renal function closely. Discharge Cr: 1.3. 


# Prediabetes (A1C 6.2 on ___ at ___: He was maintained 
on insulin sliding scale while in-house. A repeat A1c was 
performed which was 6.2.

TRANSITIONAL ISSUES:
====================
New Medications: Aspirin, atorvastatin, ranitidine, Maalox
Stopped medications: Simvastatin

[] Recommend trial of ranitidine 150mg BID x 1 week. Stop after 
ranitidine and see if the reflux symptoms recur. If the reflux 
symptoms recur, consider re-initiation of ranitidine or consider 
PPI.
[] Encourage weight loss to reduce reflux
[] Recommend that PCP provide referral to outpatient cardiology 
for follow-up given high risk factors for heart disease. 
Consider a TTE as outpatient for baseline cardiac function.
[] Regarding his prediabetes, recommend outpatient follow-up and 
education with PCP.

Code: Full Code
Wife: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
chest pain, GI distress 
RX *alum-mag hydroxide-simeth 200 mg-200 mg-20 mg/5 mL 15 ml by 
mouth every six (6) hours Disp #*1 Bottle Refills:*0 
2.  Aspirin 81 mg PO DAILY for CAD secondary prevention 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Ranitidine 150 mg PO BID Duration: 7 Days 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
5.  Losartan Potassium 25 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
==================
GERD
Ruled out MI

Secondary diagnosis:
====================
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for coming to ___!

Why were you admitted?
- You were admitted with chest pain. You initially went to ___ 
___, and they were concerned about some EKG changes.
- To rule out a heart attack, you were transferred to our 
hospital for a cardiac catheterization.

What happened while you were in the hospital?
- You had a cardiac catheterization which showed minimal 
coronary artery disease
- You did not need any stents placed, because your coronary 
arteries were mostly "clean"
- You were started on a high dose statin and a baby aspirin to 
take daily
- Your chest pain recurred, but we believe that this is not 
related to your heart and that this is related to your GI tract 
(heart burn or acid reflux).

What should you do when you leave the hospital?
- We will start you on an antacid, Zantac, which you should take 
for 7 days. If the pain recurs after you stop Zantac, you may 
need another acid suppressant (called a proton pump inhibitor). 
Talk to your PCP about this.
- You can take Maalox as needed on top of the Zantac if your 
symptoms are not well controlled.
- If your pain worsens or changes in character (it radiates to 
your arms, it causes shortness of breath, you start becoming 
nauseous or sweaty), it is important to go back to the ED.
- You should follow up with your PCP and discuss ___ referral to 
cardiology. Of note, you may just have an abnormal EKG at 
baseline.
- Your discharge weight on our scale is 284 lbs. We recommend 
that you weigh yourself at home and keep track of your weight. 
If it goes up more than ___ lbs in ___ days (or if you notice a 
lot of swelling in your legs), please let your doctor know about 
it.
- Note that being overweight can also worsen acid reflux, so it 
is important to work on weight loss to help with your treatment 
of heartburn.

It was a pleasure taking care of you! We wish you all the best.
- Your ___ Team
 
Followup Instructions:
___